US08071592B2
1-(2-{4-[(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-1-piperidinyl}ethyl)-7-(methyloxy)-1,8-naphthyridin-2(1H)-one Dihydrochloride
A solution of 1,1-dimethylethyl (2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)(1-{2-[7-(methyloxy)-2-oxo-1,8-naphthyridin-1(2H)-yl]ethyl}-4-piperidinyl)carbamate (160 mg, 0.3 mmol) in TFA/dichloromethane (2 ml/2 ml) was allowed to stand at room temperature for 1 hour then evaporated to dryness, azeotroping with chloroform. The residue was dissolved in dichloromethane/methanol (10 ml/10 ml) and treated with MP-carbonate resin (2.5 mmol of carbonate per gramme, 4 g, 10 mmol). After 15 minutes the mixture was filtered, washing with dichloromethane then methanol (twice) followed by evaporation affording the free base of the title compound.

reactant | 1,1-dimethylethyl (2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)(1-{2-[7-(methyloxy)-2-oxo-1,8-naphthyridin-1(2H)-yl]ethyl}-4-piperidinyl)carbamate | 0.3 mmol, 160 mg | O1CCOC=2C=NC(=CC21)CN(C(OC(C)(C)C)=O)C2CCN(CC2)CCN2C(C=CC1=CC=C(N=C21)OC)=O | C29H37N5O6
reactant | MP-carbonate resin | 2.5 mmol, 4 g | CC[NH+](CC)CC.CC[NH+](CC)CC.C(=O)([O-])[O-]
reactant | TFA dichloromethane | 2 ml | C(=O)(C(F)(F)F)O.ClCCl
product | 1-(2-{4-[(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-1-piperidinyl}ethyl)-7-(methyloxy)-1,8-naphthyridin-2(1H)-one Dihydrochloride | Cl.Cl.O1CCOC=2C=NC(=CC21)CNC2CCN(CC2)CCN2C(C=CC1=CC=C(N=C21)OC)=O | InChI=1S/C24H29N5O4.2ClH/c1-31-22-4-2-17-3-5-23(30)29(24(17)27-22)11-10-28-8-6-18(7-9-28)25-15-19-14-20-21(16-26-19)33-13-12-32-20;;/h2-5,14,16,18,25H,6-13,15H2,1H3;2*1H
